US04297516
1-Methoxy-2,2-bis-trimethylsilyloxyethylene
To a solution of 120.4 g. of hexamethyldisilazane in 400 ml. of tetrahydrofuran at room temperature, under argon, is added with stirring 296.6 ml of 2.4 M n-butyllithium at a rate which maintains the temperature at 30° C. After addition, the solution is stirred for one hour, cooled to -78° C. and 110 g. of trimethylsilyl methoxyacetate is added dropwise so that the temperature remains at -70° C. After addition, the solution is stirred at -78° C. for 20 minutes. An 86.4 g. portion of chlorotrimethylsilane is added dropwise so that the temperature remains at -70° C. The mixture is allowed to warm slowly to room temperature and then stirred overnight. The mixture is diluted with petroleum ether, filtered through Celite; the solvent is removed and the residue is distilled at 66°-69° C., 6 mm. giving the desired product as a colorless liquid.

reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 2.4 M, 296.6 ml | C(CCC)[Li]
reactant | trimethylsilyl methoxyacetate | COCC(=O)O[Si](C)(C)C | C6H14O3Si
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Methoxy-2,2-bis-trimethylsilyloxyethylene | COC=C(O[Si](C)(C)C)O[Si](C)(C)C | C9H22O3Si2
